US06288126B1
PREPARATION 7: 3,5-dibromo-4-[[(trifluoromethyl) sulphonyl]oxy]-benzaldehyde
14.73 ml of triflic anhydride is added, under inert gas and at 0° C., to 19.0 g of 3,5-dibromo-4-hydroxy-benzaldehyde in 100 ml of pyridine. Agitation is carried out for 1 hour while allowing the temperature to return to ambient, the reraction medium is poured into water and the aqueous phase is extracted with 3 times 150 ml of dichloromethane. The organic phases are dried and evaporated to dryness under reduced pressure. 23.83 g of crude product is obtained which is purified by filtration chromatography using a cyclohexane/ethyl acetate mixture 1/1 as eluant. In this way 23.83 g of expected product is obtained. Rf: 0.71, cyclohexane/ethyl acetate 1/1.

reactant | triflic anhydride | 14.73 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 3,5-dibromo-4-hydroxy-benzaldehyde | 19.0 g | BrC=1C=C(C=O)C=C(C1O)Br | C7H4Br2O2
reactant | water | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-dibromo-4-[[(trifluoromethyl) sulphonyl]oxy]-benzaldehyde | 23.83 g | BrC=1C=C(C=O)C=C(C1OS(=O)(=O)C(F)(F)F)Br | C8H3Br2F3O4S
